US05972972
Preparation of 3-(2-methyl-5-fluorophenylsulfonylamino)-4-(2-pyridyl)-5-(4-(3-tetrazolylpropoxy)benzylthio)-(1H)-pyrazole
The 3-(2-methyl-5-fluorophenyl)sulfonylamino-4-(2-pyridyl)-5-(4-(3-cyanopropoxy)benzylthio)-(1H)-pyrazole (0.537 g), prepared as described in Example 7, above, in diethylene glycol was treated with 1.5 equivalents of tributyltin azide and heated at reflux temperature overnight. After cooling, 2N hydrochloric acid (2 ml) was added and the mixture was stirred 1 hr at room temperature. After extraction with tetrahydrofuran, the organic layer was washed with brine, dried over MgSO4 and concentrated under vacuum. Flash chromatography over silica with 3:1 chloroform/ethyl acetate (1 1.), followed by the same solvent plus 5% methanol afforded 0.256 g (44% yield) of the pure product which crystallized from chloroform.

reactant | 3-(2-methyl-5-fluorophenyl)sulfonylamino-4-(2-pyridyl)-5-(4-(3-cyanopropoxy)benzylthio)-(1H)-pyrazole | 0.537 g | CC1=C(C=C(C=C1)F)S(=O)(=O)NC1=NNC(=C1C1=NC=CC=C1)SCC1=CC=C(C=C1)OCCCC#N | C26H24FN5O3S2
reactant | tributyltin azide | 1.5 equivalents | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | hydrochloric acid | 2N, 2 ml | Cl | ClH
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | 3-(2-methyl-5-fluorophenylsulfonylamino)-4-(2-pyridyl)-5-(4-(3-tetrazolylpropoxy)benzylthio)-(1H)-pyrazole | 0.256 g, 44% yield | CC1=C(C=C(C=C1)F)S(=O)(=O)NC1=NNC(=C1C1=NC=CC=C1)SCC1=CC=C(C=C1)OCCCC1=NN=NN1 | C26H25FN8O3S2
